US06124283
8-[4-Methyl(piperazin-1-yl)]-2-tetralone.
3',4'-Dihydro-8'-[4-methyl(piperazin-1-yl)]-spiro-[1,3-dioxolane-2,2'(1H)-naphthalene] (1.0 g, 3.5 mmol) was dissolved in freshly distilled tetrahydrofuran (50 mL) and the solution was cooled to 0° C. To the solution was added 2 M hydrochloric acid (10 mL) and after 5 min the cooling bath was removed. The reaction mixture was stirred at ambient temperature for 3.5 h. Tetrahydrofuran was removed in vacuo and the residue was mixed with methylene chloride (100 mL) and cooled on ice-bath. To the mixture was added 2 M sodium hydroxide (10 mL) and the phases were separated. The organic layer was washed with brine (15 mL) and dried (MgSO4). The solvent was evaporated giving 810 mg (95% yield) of the title compound as a brownish crystalline solid: mp>85° C. (sinters); EIMS (70 eV) m/z (relative intensity) 244 (51, M+).

reactant | 3',4'-Dihydro-8'-[4-methyl(piperazin-1-yl)]-spiro-[1,3-dioxolane-2,2'(1H)-naphthalene] | 3.5 mmol, 1.0 g | CN1CCN(CC1)C=1C=CC=C2CCC3(CC12)OCCO3 | C17H24N2O2
reactant | hydrochloric acid | 2 M, 10 mL | Cl | ClH
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 8-[4-Methyl(piperazin-1-yl)]-2-tetralone | 810 mg, 95% yield | CN1CCN(CC1)C=1C=CC=C2CCC(CC12)=O | C15H20N2O
